data/oMe_Silver.jsonl
{"reaction_id": "NR-306_1-C(C)(C)","level": "medium","name": "Thorpe-Ziegler Reaction","reactants_smiles": ["N#C[CH2]C(C)(C)[CH2]C#N","[O-]C(C)(C)C"],"products_smiles": ["N#CC1=C(N)CC(C)(C)C1"],"conditions": "tert-butoxide base","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N#C[C-][CH2]C(C)(C)[CH2]C#N","step_weight": 0,"rationale": "tert-Butoxide deprotonates the methylene flanked by nitriles due to the strong acidity from electron-withdrawing cyano groups, stabilizing the resulting carbanion via resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N#CC1C(=[N-])CC(C)(C)C1","step_weight": 0,"rationale": "The resonance-stabilized carbanion attacks the electrophilic carbon of the second nitrile intramolecularly, favored by proximity and relief of ring strain in forming a five-membered ring."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N#CC1C(=N)CC(C)(C)C1","step_weight": 0,"rationale": "Protonation of the imide anion occurs to neutralize charge, driven by the basicity of the anion and availability of proton donors in the medium."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N#CC1=C([NH-])CC(C)(C)C1","step_weight": 0,"rationale": "Deprotonation at the adjacent nitrogen generates an anionic intermediate, facilitated by the electron-withdrawing cyano group and conjugation with the C=N bond."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N#CC1=C(N)CC(C)(C)C1","step_weight": 0,"rationale": "Final protonation of the nitrogen anion yields the neutral amine, thermodynamically favored under the reaction conditions."}],"description": "Under strong basic conditions, tert-butoxide deprotonates a methylene between two nitriles, generating a stabilized carbanion. This nucleophile undergoes intramolecular attack on the other nitrile, forming a cyclic imine anion. Sequential proton transfers yield the neutral aminopyridine derivative."}
{"reaction_id": "NR-219_1-C1CCCCC1_2-c1cnccc1_6-C1CC1","level": "medium","name": "Pfitzner-Moffatt oxidation","reactants_smiles": ["O=S(C)C","O=C(O)C","OC(C1CCCCC1)(c1cnccc1)","C1CC1N=C=NC1CC1"],"products_smiles": ["S(C)C","O=C(O)C","O=C(C1CCCCC1)(c1cnccc1)","C1CC1NC(=O)NC1CC1"],"conditions": null,"mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N(C1CC1)=C(N(C1CC1))O[S+](C)C","step_weight": 0,"rationale": "The carbodiimide oxygen attacks DMSO sulfur because sulfur is electrophilic and polarizable; this forms an activated sulfonium intermediate stabilized by resonance with the carbodiimide."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N(C1CC1)=C(N(C1CC1))OS(C)(C)[O]Cc3ccccc3","step_weight": 0,"rationale": "The activated sulfonium intermediate reacts with the alcohol oxygen, whose lone pairs attack the electrophilic sulfur, favored by the good leaving ability of the carbodiimide-derived group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[NH](C1CC1)C(=[NH+](C1CC1))OS(C)(C)OC(C1CCCCC1)(c1cnccc1)","step_weight": 0,"rationale": "Proton transfer occurs to neutralize charges and generate a better leaving group; acid–base equilibrium is facilitated by the polar environment and the basic nitrogen atoms."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C1CCCCC1)(c1cnccc1)[O][S](=C)C","step_weight": 0,"rationale": "The alkoxide oxygen attacks the activated sulfur, forming a sulfonium alkoxysulfonium species; this step is driven by the high electrophilicity of the sulfur center."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(C1CCCCC1)(c1cnccc1)","step_weight": 0,"rationale": "Elimination occurs as the leaving group departs, driven by the formation of a stable carbonyl and the favorable expulsion of a neutral dimethyl sulfide."}],"description": "In the Pfitzner–Moffatt oxidation, DMSO is activated by a carbodiimide to form an electrophilic sulfonium species, which reacts with the alcohol. Subsequent proton transfers and elimination steps drive the conversion of the alcohol to a carbonyl compound under mild, non-aqueous conditions."}
